US05214056
Ethyl (4S,5S)-5-[(S)-3-methyl-1-(3-methylbutylcarbamoyl)butylcarbamoyl]-1,3,2-dioxathiolane-4-carboxylate-2,2-dioxide
Following the same procedures as in Example 3, ethyl (2S,3S)-2,3-dihydroxy-3-[(S)-3-methyl-1-(3-methylbutylcarbamoyl)butylcarbamoyl]propionate (200 mg) was converted into ethyl-(4S,5S)-5-[(S)-3-methyl-1-(3-methylbutylcarbamoyl) butylcarbamoyl]-1,3,2-dioxathiolane-4-carboxylate-2-oxide. Acetonitrile (3 ml) was added to the reaction solution (carbon tetrachloride; 3 ml) without isolating or purifying the product, and the resultant solution was stirred at room temperature. Subsequently, a solution prepared by dissolving sodium periodate (252 mg) and ruthenium trichloride hydrate (catalytic amount) in water (4.5 ml) was added, and the resultant solution was stirred at room temperature for 20 hours. Diethylether was added to the reaction solution, and the ether layer of the solution was sequentially washed with water, saturated sodium bicarbonate solution, and saturated sodium chloride solution. The resultant layer was dried with magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain a crude product. This crude product was purified by silica gel column chromatography (a developing solvent; hexane:ethyl acetate=2:1) to obtain 117 mg of a target compound as a white powder. NMR data, IR data, and SIMS data of the compound were as follows.

reactant | ethyl (2S,3S)-2,3-dihydroxy-3-[(S)-3-methyl-1-(3-methylbutylcarbamoyl)butylcarbamoyl]propionate | 200 mg | O[C@H](C(=O)OCC)[C@@H](C(N[C@@H](CC(C)C)C(NCCC(C)C)=O)=O)O | C17H32N2O6
reactant | ethyl-(4S,5S)-5-[(S)-3-methyl-1-(3-methylbutylcarbamoyl) butylcarbamoyl]-1,3,2-dioxathiolane-4-carboxylate-2-oxide | C(C)[C@@]1(OS(O[C@@H]1C(N[C@@H](CC(C)C)C(NCCC(C)C)=O)=O)=O)C(=O)[O-]
reactant | Acetonitrile | 3 ml | C(C)#N | C2H3N
reactant | sodium periodate | 252 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | water | 4.5 ml | O | H2O
catalyst | ruthenium trichloride hydrate | O.[Ru](Cl)(Cl)Cl
solvent | Diethylether | C(C)OCC | C4H10O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl (4S,5S)-5-[(S)-3-methyl-1-(3-methylbutylcarbamoyl)butylcarbamoyl]-1,3,2-dioxathiolane-4-carboxylate-2,2-dioxide | 117 mg | CC(C[C@@H](C(NCCC(C)C)=O)NC(=O)[C@@H]1[C@H](OS(O1)(=O)=O)C(=O)OCC)C | C17H30N2O8S
